US07285557B2
Methyl 5-(4-chlorophenyl)-3-{[(E)-(dimethylamino)methylidene]amino}-2-thiophenecarboxylate (857 mg, 2.66 mmol) was mixed with tert-butyl (2S,4R)-2-[(4-amino-2-methoxyphenoxy)methyl]4-hydroxypyrrolidine-1-carboxylate (900 mg) in phenol (1.0 g) at 120° C. for 15 min. Workup and purification of the reaction mixture provided 650 mg of tert-butyl (2S,4R)-2-({4-[6-(4-chlorophenyl)-4-oxothieno[3,2-d]pyrimidin-3(4H)-yl]-2-methoxyphenoxy}methyl)-4-hydroxypyrrolidine-1-carboxylate. A portion of this material (105 mg, 0.179 mmol) was dissolved in a 1:1 mixture of dichloromethane and trifluoroacetic acid. The mixture was stirred at room temperature for 10 min and was then concentrated under reduced pressure. The residue was dissolved in dichloromethane and washed with a saturated solution of NaHCO3, brine, dried (Na2SO4) and concentrated to provide the title compound.

reactant | Methyl 5-(4-chlorophenyl)-3-{[(E)-(dimethylamino)methylidene]amino}-2-thiophenecarboxylate | 2.66 mmol, 857 mg | ClC1=CC=C(C=C1)C1=CC(=C(S1)C(=O)OC)/N=C/N(C)C | C15H15ClN2O2S
reactant | tert-butyl (2S,4R)-2-[(4-amino-2-methoxyphenoxy)methyl]4-hydroxypyrrolidine-1-carboxylate | 900 mg | NC1=CC(=C(OC[C@H]2N(C[C@@H](C2)O)C(=O)OC(C)(C)C)C=C1)OC | C17H26N2O5
solvent | phenol | 1.0 g | C1(=CC=CC=C1)O | C6H6O
product | tert-butyl (2S,4R)-2-({4-[6-(4-chlorophenyl)-4-oxothieno[3,2-d]pyrimidin-3(4H)-yl]-2-methoxyphenoxy}methyl)-4-hydroxypyrrolidine-1-carboxylate | 650 mg | ClC1=CC=C(C=C1)C1=CC=2N=CN(C(C2S1)=O)C1=CC(=C(OC[C@H]2N(C[C@@H](C2)O)C(=O)OC(C)(C)C)C=C1)OC | C29H30ClN3O6S
